US04886806
3',4',5'-Trihydroxyflavone-3-carboxylic acid was dissolved in 4 ml absolute pyridine, and the solution was reacted with 0.57 ml acetic anhydride and stirred for two hours. Then it was worked up by diluting with 20 ml dichloromethane, pouring onto a mixture of dilute hydrochloric acid/ice water and shaking with dichloromethane. Here care must be taken that the aqueous phase remains acid (if necessary some dilute hydrochloric acid must be added). The dichloromethane phase was separated, washed with water, dried over sodium sulfate and evaporated. 0.8 g crude 3',4',5'-triacetoxyflavone-3-carboxylic acid were obtained which was immediately processed further without additional purification.

reactant | 3',4',5'-Trihydroxyflavone-3-carboxylic acid | OC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)O)=O)C=C(C1O)O | C16H10O7
reactant | acetic anhydride | 0.57 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3',4',5'-triacetoxyflavone-3-carboxylic acid | 0.8 g | C(C)(=O)OC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)O)=O)C=C(C1OC(C)=O)OC(C)=O | C22H16O10
